US04861852
Preparation of o-chloromethylphenoxy methylstyrene
47.4 g (0.6 mol) of pyridine was added to a solution which had been obtained by adding 500 ml of chloroform to 120 g (0.5 mol) of o-hydroxymethylphenoxy methylstyrene. 71.4 g (0.6 mol) of thionyl chloride was dropwise added to the mixture with stirring while keeping the temperature at 3° to 4° C. in an ice bath. The mixture was stirred at the same temperature for 1 hour and then at a temperature of 30° C. for 1 hour. After being washed with water, the mixture was dried by sodium sulfate. The chloroform was removed from by distillation under reduced pressure to obtain a yellow liquid as the desired product.

reactant | pyridine | 0.6 mol, 47.4 g | N1=CC=CC=C1 | C5H5N
reactant | o-hydroxymethylphenoxy methylstyrene | 0.5 mol, 120 g | OCC1=C(C=CCOC2=CC=CC=C2)C=CC=C1 | C16H16O2
reactant | thionyl chloride | 0.6 mol, 71.4 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | o-chloromethylphenoxy methylstyrene | ClCC1=C(C=CCOC2=CC=CC=C2)C=CC=C1 | C16H15ClO
